US05623072
4-Bromo-5-methoxy-3-[3-(trifluoromethyl)phenyl]pyridazine (1.0 g, 0.003 mole, Compound No. 57), vinyltributyltin (1.1 g, 0.0034 mole) and trans-benzyl(chloro)bis-(triphenylphosphine)-palladium(II) (20 mg) were heated to 110° C. in DMF (50 mL) under N2 for 4 h. The reaction was then cooled and partitioned between aqueous KF and ethyl acetate. The KF solution was extracted with additional ethyl acetate. The organic layers were washed with brine, dried (MgSO4), filtered through silica gel and then evaporated in vacuo. The crude oil was then chromatographed on a Prep-500 to give 4-ethenyl-5-methoxy-3-[3-(trifluoromethyl) phenyl]pyridazine (0.35 g, 42% yield, Compound No. 55) as a light brown solid.

reactant | 4-Bromo-5-methoxy-3-[3-(trifluoromethyl)phenyl]pyridazine | 0.003 mole, 1.0 g | BrC1=C(N=NC=C1OC)C1=CC(=CC=C1)C(F)(F)F | C12H8BrF3N2O
reactant | vinyltributyltin | 0.0034 mole, 1.1 g | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
catalyst | trans-benzyl(chloro)bis-(triphenylphosphine)-palladium(II) | 20 mg | [CH2-]C1=CC=CC=C1.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd+]
product | 4-ethenyl-5-methoxy-3-[3-(trifluoromethyl) phenyl]pyridazine | 0.35 g, 42% yield | C(=C)C1=C(N=NC=C1OC)C1=CC(=CC=C1)C(F)(F)F | C14H11F3N2O
